US06518264B2
1.02 g of supported EDCI (5 mM), 47.3 mg of N-Boc-sarcosine and then 10 cm3 of dichloromethane are successively added, at a temperature close to 20° C., to 108.5 mg of 1-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine. After stirring for 20 hours at a temperature close to 20° C., the reaction mixture is filtered on sintered glass. The resin is rinsed with three times 5 cm3 of dichloromethane. The combined filtrates are washed with 20 cm3 of water, dried over magnesium sulfate, filtered on sintered glass and concentrated to dryness under reduced pressure (1 kPa) at a temperature close to 40° C. 143 mg of (2-{4-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazin-1-yl}-2-oxoethyl)-N-methylcarbamic acid tert-butyl ester are thus obtained in the form of a cream-colored lacquer [1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm). A mixture of rotamers is observed at room temperature; 1.31 and 1.41 (2s, 9H in total), 2.78 and 2.81 (2s, 3H in total), 2.93 (2s, 3H), from 3.10 to 3.25 (unresolved complex, 4H), from 3.45 to 3.65 (mt, 4H), 3.80 (mt, 2H), 4.06 and 4.09 (2s, 2H in total), 4.19 (mt, 2H), 4.78 (s, 1H), 6.83 (broad d, J=8 Hz, 1H), 6.93 (broad s, 1H), 7.00 (dd, J=8 and 2.5 Hz, 1H), 7.27 (t, J=8 Hz, 1H), 7.36 (d, J=8 Hz, 4H), 7.46 (d, J=8 Hz, 4H)].

reactant | EDCI | 5 mM, 1.02 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-Boc-sarcosine | 47.3 mg | C(=O)(OC(C)(C)C)N(C)CC(=O)O | C8H15NO4
reactant | 1-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine | 108.5 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C=CC1)N1CCNCC1)C1=CC=C(C=C1)Cl | C28H29Cl2N3O2S
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
product | (2-{4-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazin-1-yl}-2-oxoethyl)-N-methylcarbamic acid tert-butyl ester | 143 mg | C(C)(C)(C)OC(N(C)CC(=O)N1CCN(CC1)C1=CC(=CC=C1)CS(=O)(=O)C=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C36H42Cl2N4O5S
